US05972978
Example 16 5-Naphthalen-2-yl-2,3-dihydro-[1,3,4]thiadiazol-2-yl-cyanamide
To a stirred solution of potassium tert-butoxide (0.46 g, 4.08 mmol) in tert-butanol (25 ml) was added cyanamide (0.32 g, 7.65 mmol) and the resulting mixture was stirred for 15 min. at room temperature. To this mixture was added 2-methanesulfinyl-5-naphthalen-2-yl-[1,3,4]thiadiazole (0.7 g, 2.55 mmol) and the mixture was heated at reflux temperature for 15 min. followed by addition of an additional portion of cyanamide (0.2 g, 4.76 mmol). Heating was continued for an additional 2 h. The cooled reaction mixture was quenched by addition of 1 N sodium hydroxide (150 ml) and diluted by addition of diethyl ether. The organic phases were separated and the aqueous phase was acidified to pH=1 with concentrated hydrochloric acid. The precipitate was filtered off, washed with water (2×10 ml) and diethyl ether (2×10 ml) and dried at 50° C. which afforded 0.25 g (39%) of the title compound as a solid.

reactant | potassium tert-butoxide | 4.08 mmol, 0.46 g | CC(C)([O-])C.[K+]
reactant | cyanamide | 7.65 mmol, 0.32 g | N#CN | CH2N2
reactant | 2-methanesulfinyl-5-naphthalen-2-yl-[1,3,4]thiadiazole | 2.55 mmol, 0.7 g | CS(=O)C=1SC(=NN1)C1=CC2=CC=CC=C2C=C1 | C13H10N2OS2
reactant | cyanamide | 4.76 mmol, 0.2 g | N#CN | CH2N2
solvent | tert-butanol | 25 ml | C(C)(C)(C)O | C4H10O
product | 5-Naphthalen-2-yl-2,3-dihydro-[1,3,4]thiadiazol-2-yl-cyanamide | 0.25 g, 39% | C1=C(C=CC2=CC=CC=C12)C1=NNC(S1)NC#N | C13H10N4S
